* Test DC mode support for the DC_CONT version of
* FIND-AT, FIND-WHEN and WHEN measures.
*
* See SON Bugs 1274 and 1313 for more details
*****************************************************
.DC V1 1 10 1
.PRINT DC V(1) V(2) V(3) whenCrossTest1 whenCrossContTest2
+ whenCrossContTest3 whenCrossContTest4
+ whenCrossNeg2 whenCrossContNeg2 whenCrossNeg5 whenCrossContNeg5

V1 1 0 1
R1 1 0 1

B2 2 0 V={(V(1)-2.5)*(V(1)-2.5)*(V(1)-7.5)*(V(1)-7.5)/4}
R2 2 3 1
R3 3 0 1

******************************************************
* test CROSS qualifier and FIND-WHEN and WHEN
* Non-continuous version should return first crossing.
* Continuous version should return all crossings.
.MEASURE DC whenCrossTest1 WHEN V(2)=5
.MEASURE DC_CONT whenCrossContTest1 WHEN V(2)=5

* Non-continuous version should return first crossing.
* Continuous version should return all crossings, starting
* with the first one.
.MEASURE DC whenCrossTest2 WHEN V(2)=5 CROSS=1
.MEASURE DC_CONT whenCrossContTest2 WHEN V(2)=5 CROSS=1

* Non-continuous version should return second crossing.
* Continuous version should return all crossings, starting
* with the second one.
.MEASURE DC whenCrossTest3 WHEN V(2)=5 CROSS=2
.MEASURE DC_CONT whenCrossContTest3 WHEN V(2)=5 CROSS=2

* These should both return the last crossing
.MEASURE DC whenCrossTest4 WHEN V(2)=5 CROSS=LAST
.MEASURE DC_CONT whenCrossContTest4 WHEN V(2)=5 CROSS=LAST

******************************************************
* FIND-AT measures
* These should give the same answer
.MEASURE DC atTest FIND V(2) AT=2
.MEASURE DC_CONT atContTest FIND V(2) AT=2

******************************************************
* Repeat WHEN tests as FIND-WHEN measures
.MEASURE DC findCrossTest1 FIND V(3) WHEN V(2)=5
.MEASURE DC_CONT findCrossContTest1 FIND V(3) WHEN V(2)=5

.MEASURE DC findCrossTest2 FIND V(3) WHEN V(2)=5 CROSS=1
.MEASURE DC_CONT findCrossContTest2 FIND V(3) WHEN V(2)=5 CROSS=1

.MEASURE DC findCrossTest3 FIND V(3) WHEN V(2)=5 CROSS=2
.MEASURE DC_CONT findCrossContTest3 FIND V(3) WHEN V(2)=5 CROSS=2

.MEASURE DC findCrossTest4 FIND V(3) WHEN V(2)=5 CROSS=LAST
.MEASURE DC_CONT findCrossContTest4 FIND V(3) WHEN V(2)=5 CROSS=LAST

*****************************************************
* test RISE and FAll qualifiers for WHEN and FIND-WHEN
.MEASURE DC_CONT whenRiseContTest1 WHEN V(2)=5 RISE=1
.MEASURE DC_CONT whenRiseContTest2 WHEN V(2)=5 RISE=2
.MEASURE DC_CONT whenRiseContTest3 WHEN V(2)=5 RISE=LAST

.MEASURE DC_CONT whenFallContTest1 WHEN V(2)=5 FALL=1
.MEASURE DC_CONT whenFallContTest2 WHEN V(2)=5 FALL=2
.MEASURE DC_CONT whenFallContTest3 WHEN V(2)=5 FALL=LAST

.MEASURE DC_CONT findRiseContTest1 FIND V(3) WHEN V(2)=6 RISE=1
.MEASURE DC_CONT findRiseContTest2 FIND V(3) WHEN V(2)=6 RISE=2
.MEASURE DC_CONT findRiseContTest3 FIND V(3) WHEN V(2)=6 RISE=LAST

.MEASURE DC_CONT findFallContTest1 FIND V(3) WHEN V(2)=7 FALL=1
.MEASURE DC_CONT findFallContTest2 FIND V(3) WHEN V(2)=7 FALL=2
.MEASURE DC_CONT findFallContTest3 FIND V(3) WHEN V(2)=7 FALL=LAST

************************************************************************
* Use of FROM-TO.  Only the rise, fall or cross values within the
* FROM-TO windows should be returned, starting at the requested value.
* For CROSS=LAST, only the last one within the FROM-TO window is returned
.MEASURE DC_CONT whenCross1ContFrom25 WHEN V(2)=5 CROSS=1 FROM=2.5
.MEASURE DC_CONT whenCross2ContFrom25 WHEN V(2)=5 CROSS=2 FROM=2.5
.MEASURE DC_CONT whenCrossContTo75 WHEN V(2)=5 CROSS=1 TO=7.5
.MEASURE DC_CONT whenRiseContFrom5 WHEN V(2)=5 RISE=1 FROM=5
.MEASURE DC_CONT whenFallContTo5 WHEN V(2)=5 FALL=1 TO=5
.MEASURE DC_CONT whenCrossContToLast WHEN V(2)=5 CROSS=LAST TO=7.5

*********************************************************
* Test negative values
.MEASURE DC whenCrossNeg2 WHEN V(2)=5 CROSS=-2
.MEASURE DC whenCrossNeg3 WHEN V(2)=5 CROSS=-3
.MEASURE DC whenCrossNeg5 WHEN V(2)=5 CROSS=-5
.MEASURE DC_CONT whenCrossContNeg1 WHEN V(2)=5 CROSS=-1
.MEASURE DC_CONT whenCrossContNeg2 WHEN V(2)=5 CROSS=-2
.MEASURE DC_CONT whenCrossContNeg3 WHEN V(2)=5 CROSS=-3
.MEASURE DC_CONT whenCrossContNeg4 WHEN V(2)=5 CROSS=-4
.MEASURE DC_CONT whenCrossContNeg5 WHEN V(2)=5 CROSS=-5

.MEASURE DC whenRiseNeg2 WHEN V(2)=5 RISE=-2
.MEASURE DC whenRiseNeg3 WHEN V(2)=5 RISE=-3
.MEASURE DC_CONT whenRiseContNeg1 WHEN V(2)=5 RISE=-1
.MEASURE DC_CONT whenRiseContNeg2 WHEN V(2)=5 RISE=-2
.MEASURE DC_CONT whenRiseContNeg3 WHEN V(2)=5 RISE=-3

.MEASURE DC whenFallNeg2 WHEN V(2)=5 FALL=-2
.MEASURE DC whenFallNeg3 WHEN V(2)=5 FALL=-3
.MEASURE DC_CONT whenFallContNeg1 WHEN V(2)=5 FALL=-1
.MEASURE DC_CONT whenFallContNeg2 WHEN V(2)=5 FALL=-2
.MEASURE DC_CONT whenFallContNeg3 WHEN V(2)=5 FALL=-3

*************************************************
* test failed measures
.MEASURE DC_CONT whenCrossContFail1 WHEN V(2)=100
.MEASURE DC_CONT atContFail FIND V(2) at=20
.MEASURE DC_CONT whenCrossContFail2 WHEN V(2)=5 CROSS=5
.MEASURE DC_CONT whenRiseContFail WHEN V(2)=5 RISE=3
.MEASURE DC_CONT whenFallContFail WHEN V(2)=5 FALL=3

.END
